US08071624B2
A mixture of tert-butyl [trans-4-(pyridin-4-yloxy)cyclohexyl]carbamate in a solution of methylene chloride (1 mL) and 4.0 M of hydrogen chloride in 1,4-dioxane (2 mL) was stirred at r.t for 2 hours. The mixture was concentrated to yield 45% of trans-4-(pyridin-4-yloxy)cyclohexanamine dihydrochloride (2-step).

reactant | tert-butyl [trans-4-(pyridin-4-yloxy)cyclohexyl]carbamate | N1=CC=C(C=C1)O[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C16H24N2O3
reactant | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
reactant | hydrogen chloride | 4.0 M | Cl | ClH
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | trans-4-(pyridin-4-yloxy)cyclohexanamine dihydrochloride | 45% | Cl.Cl.N1=CC=C(C=C1)O[C@@H]1CC[C@H](CC1)N | InChI=1S/C11H16N2O.2ClH/c12-9-1-3-10(4-2-9)14-11-5-7-13-8-6-11;;/h5-10H,1-4,12H2;2*1H/t9-,10-;;
